US04642313
6.0 g of (3-furylcarbonyl)methylamine hydrochloride, 7.8 g of sodium bicarbonate and 6.4 g of 4-fluorobenzoyl chloride are treated in the same manner as described in Preparation 1-(1). 8.5 g of N-(4-fluorobenzoyl)-(3-furylcarbonyl)methylamine are thereby obtained. Yield: 92.4%

reactant | (3-furylcarbonyl)methylamine hydrochloride | 6.0 g | Cl.O1C=C(C=C1)C(=O)CN
reactant | sodium bicarbonate | 7.8 g | C([O-])(O)=O.[Na+]
reactant | 4-fluorobenzoyl chloride | 6.4 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | N-(4-fluorobenzoyl)-(3-furylcarbonyl)methylamine | 8.5 g, Yield: 92.4% | FC1=CC=C(C(=O)NCC(=O)C2=COC=C2)C=C1 | C13H10FNO3
